US05998433
c) Synthesis of N,N-dimethyl-[6-(5-phenylpentylsulfonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[6-(5-phenylpentylsulfonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.137 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. After this mixture was concentrated, diethyl ether was added; the resulting solid was filtered and washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[6-(5-phenylpentylsulfonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.137 g | CN(C)CC1=CC2=C(CN(CC2)S(=O)(=O)CCCCCC2=CC=CC=C2)O1 | C21H30N2O3S
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N,N-dimethyl-[6-(5-phenylpentylsulfonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)S(=O)(=O)CCCCCC2=CC=CC=C2)O1 | InChI=1S/C21H30N2O3S.ClH/c1-22(2)16-20-15-19-12-13-23(17-21(19)26-20)27(24,25)14-8-4-7-11-18-9-5-3-6-10-18;/h3,5-6,9-10,15H,4,7-8,11-14,16-17H2,1-2H3;1H
